US04465844
2-[1-(2,4-Dimethoxybenzyl)-2,5-dioxopyrrolidin-3-yl]-glycine methyl ester
In a mixture of 50 ml of methanol and 5 ml of acetic acid was dissolved 3 g of benzyloxycarbonyl-2-[1-(2,4-dimethoxybenzyl)-2,5-dioxopyrrolidin-3-yl] glycine methyl ester and after addition of 500 mg of palladium black, the mixture was stirred in a stream of hydrogen at room temperature for 2.5 hours. The catalyst was filtered off and the filtrate was concentrated to dryness under reduced pressure. The concentrate was chromatographed on a silica gel column and eluted with toluene-acetone (4:1). The eluate was concentrated under reduced pressure and to the residue was added 100 ml of ethyl ether-petroleum ether (1:5). The mixture was allowed to stand in a refrigerator overnight and the resulting precipitate was collected by filtration and dried. Yield 1.4 g.

reactant | benzyloxycarbonyl-2-[1-(2,4-dimethoxybenzyl)-2,5-dioxopyrrolidin-3-yl] glycine methyl ester | 3 g | COC(C(NC(=O)OCC1=CC=CC=C1)C1C(N(C(C1)=O)CC1=C(C=C(C=C1)OC)OC)=O)=O | C24H26N2O8
reactant | hydrogen | [H][H] | H2
solvent | methanol | 50 ml | CO | CH4O
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
catalyst | palladium black | 500 mg | [Pd] | Pd
product | 2-[1-(2,4-Dimethoxybenzyl)-2,5-dioxopyrrolidin-3-yl]-glycine methyl ester | COC(C(N)C1C(N(C(C1)=O)CC1=C(C=C(C=C1)OC)OC)=O)=O | C16H20N2O6
